US08487117B2
1-[(1R,2S)-2-Hydroxy-1-methylpropyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide
To a solution of 4-methyl-N-[4-(methylsulfonyl)phenyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide (28 g, 66 mmol) in anhydrous N,N-dimethylacetamide (DMA) (0.53 L) was added sodium tert-butoxide (15 g, 15 mmol) and stirred at room temperature for 30 min under N2. (4S,5S)-4,5-dimethyl-1,3,2-dioxathiolane 2,2-dioxide (15 g, 99 mmol) in anhydrous DMA (2.0 ml) was added to the solution and stirred at 70° C. for 2.0 h. The reaction mixture was cooled to room temperature and added 2N HCl (0.14 L) and concentrated on a rotary evaporator. To this residue was added anhydrous tetrahydrofuran (THF) (140 ml) and 5N HCl (0.14 L) and stirred at 60° C. for 90 min. The mixture was diluted with ethyl acetate and washed with water, saturated NaHCO3 and brine, then dried over sodium sulfate and concentrated on a rotary evaporator. The resulting residue was purified by silica-gel column chromatography (9:1 to 1:1 dichloromethane:ethyl acetate) to give an atropisomeric mixture of title compound as a white solid (22.5 g, 69%).

reactant | 4-methyl-N-[4-(methylsulfonyl)phenyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide | 66 mmol, 28 g | CC=1C(=CNC1C1=C(C=CC=C1)C(F)(F)F)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C | C20H17F3N2O3S
reactant | sodium tert-butoxide | 15 mmol, 15 g | CC(C)([O-])C.[Na+]
reactant | (4S,5S)-4,5-dimethyl-1,3,2-dioxathiolane 2,2-dioxide | 99 mmol, 15 g | C[C@@H]1OS(O[C@H]1C)(=O)=O | C4H8O4S
reactant | HCl | 2N, 0.14 L | Cl | ClH
solvent | N,N-dimethylacetamide | 0.53 L | CN(C(C)=O)C | C4H9NO
solvent | DMA | 2.0 ml | CN(C(C)=O)C | C4H9NO
product | 1-[(1R,2S)-2-Hydroxy-1-methylpropyl]-4-methyl-N-[4-(methylsulfonyl)phenyl]-5-[2-(trifluoromethyl)phenyl]-1H-pyrrole-3-carboxamide | 22.5 g, 69% | O[C@H]([C@@H](C)N1C=C(C(=C1C1=C(C=CC=C1)C(F)(F)F)C)C(=O)NC1=CC=C(C=C1)S(=O)(=O)C)C | C24H25F3N2O4S
